US04215003
3-Pyridinyl p-toluenesulfonate
Equimolar portions (0.106 moles) of 3-hydroxypyridine, sodium hydroxide and p-toluenesulfonyl chloride were combined in 100 ml of water and stirred at 50° C. for 2.5 hours. The aqueous solution was extracted with chloroform, dried over sodium sulfate and distilled to yield an oil which crystallized on standing. Recrystallization from cyclohexane yielded a white solid, mp 76°-78° C., lit. mp 79° C.

reactant | 3-hydroxypyridine | 0.106 moles | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 100 ml | O | H2O
product | 3-Pyridinyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC=1C=NC=CC1)C | C12H11NO3S
